US08729068B2
A mixture of 1.30 g of methyl trans-4-aminocyclohexane carboxylate hydrochloride, 1.65 g of sodium acetate, 5.2 mL of acetone, 1.3 mL of acetic acid, and 13 mL of 1,2-dichloroethane was stirred at room temperature for 30 minutes, and then 4.27 g of sodium triacetoxyborohydride was added thereto, followed by stirring at room temperature for 2 hours. To the reaction mixture were added 4.64 g of potassium carbonate and 10 mL of water, followed by stirring at room temperature for 1 hour and concentrating under reduced pressure. The residue was purified by silica gel column chromatography (chloroform-methanol) to obtain a colorless oily substance. To the obtained oily substance were added 2.93 g of di-tert-butyl dicarbonate and 13 mL of 1,4-dioxane, followed by stirring at room temperature for 2 hours and then at 60° C. overnight. The reaction mixture was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to obtain 1.46 g of methyl trans-4-[(tert-butoxycarbonyl)(isopropyl)amino]cyclohexane carboxylate as a colorless oily substance. ESI+: 300

reactant | methyl trans-4-aminocyclohexane carboxylate hydrochloride | 1.30 g | Cl.N[C@@H]1CC[C@H](CC1)C(=O)OC
reactant | sodium acetate | 1.65 g | C(C)(=O)[O-].[Na+]
reactant | sodium triacetoxyborohydride | 4.27 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | potassium carbonate | 4.64 g | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyl dicarbonate | 2.93 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 13 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
solvent | 1,2-dichloroethane | 13 mL | ClCCCl | C2H4Cl2
solvent | acetic acid | 1.3 mL | C(C)(=O)O | C2H4O2
solvent | acetone | 5.2 mL | CC(=O)C | C3H6O
product | methyl trans-4-[(tert-butoxycarbonyl)(isopropyl)amino]cyclohexane carboxylate | 1.46 g | C(C)(C)(C)OC(=O)N([C@@H]1CC[C@H](CC1)C(=O)OC)C(C)C | C16H29NO4
